US04313949
2-Amino-3-benzoyl-5-chloro-α-[(4-chlorophenyl)thio]phenylacetamide
To a cold (-70° C.) solution of 20 g (0.0863 mole) of 2-amino-5-chlorobenzophenone in 500 ml of methylene chloride under nitrogen atmosphere was added a solution of 9.48 g (0.088 mole) of t-butyl hypochlorite in 50 ml of methylene chloride. After an additional 15 min stirring, a solution of 17.35 g (0.0863 mole) of α-(4-chlorophenylthio)acetamide in 500 ml of a 50/50 mixture of tetrahydrofuran and methylene chloride was added. The mixture was stirred at -70° C. for 2 hr, 8.72 g (0.0863 mole) of triethylamine was added, and the stirred solution was allowed to warm to room temperature over a period of 2 hr. The reaction mixture was extracted with several portions of water and the organic layer dried over magensium sulfate. The volume of liquid was reduced to about 500 ml. Methylene chloride, 500 ml, was added to precipitate the product which after filtration and drying weighed 16.62 g (44.7%). The yellow solid melted at 198°-200° C.

reactant | 2-amino-5-chlorobenzophenone | 0.0863 mole, 20 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | t-butyl hypochlorite | 0.088 mole, 9.48 g | ClOC(C)(C)C | C4H9ClO
reactant | α-(4-chlorophenylthio)acetamide | 0.0863 mole, 17.35 g | ClC1=CC=C(C=C1)SCC(=O)N | C8H8ClNOS
reactant | triethylamine | 0.0863 mole, 8.72 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Amino-3-benzoyl-5-chloro-α-[(4-chlorophenyl)thio]phenylacetamide | NC1=C(C=C(C=C1C(C1=CC=CC=C1)=O)Cl)C(C(=O)N)SC1=CC=C(C=C1)Cl | C21H16Cl2N2O2S
